US05298520
1. 4-Hydrazinobenzylcyanide. Hydrochloride
A solution of NaNO2 (80 g, 1.16 mol) was added dropwise to a cooled (-10° C.), stirred, suspension of 4-aminobenzyl cyanide (153.5 g, 1.16 mol) in concentrated HCl (1500 ml), at such a rate that the temperature did not rise above -10° C. The mixture was stirred at -10° C. for 0.25 h before being filtered rapidly under vacuum into an addition funnel. The solution was added portionwise over a 0.25 h period to a rapidly stirred mixture of SnCl2.2H2O (1.05 kg, 4.64 mol) in concentrated HCl (800 ml) keeping the temperature below -5° C. The mixture was allowed to warm to room temperature and stir for 0.25 h before filtering the sandy coloured precipitate under vacuum and washing with ether (5×500 ml). The resultant solid was dried over P2O5 in a vacuum oven (80° C.) for 16 h to give the title compound (213 g, 100%), m.p. 181°-183° C.; 1H NMR (360 MHz, D2O) δ 3.90 (2H, s, CH2); 7.06 (2H, d, J=8.7 Hz, Ar-H); 7.40 (2H, d, J=8.7 Hz, Ar-H).

reactant | NaNO2 | 1.16 mol, 80 g | N(=O)[O-].[Na+]
reactant | 4-aminobenzyl cyanide | 1.16 mol, 153.5 g | NC1=CC=C(CC#N)C=C1 | C8H8N2
reactant | SnCl2.2H2O | 4.64 mol, 1.05 kg | O.O.Cl[Sn]Cl
solvent | HCl | 1500 ml | Cl | ClH
solvent | HCl | 800 ml | Cl | ClH
product | 4-Hydrazinobenzylcyanide. Hydrochloride | 213 g, 100% | Cl.N(N)C1=CC=C(CC#N)C=C1 | InChI=1S/C8H9N3.ClH/c9-6-5-7-1-3-8(11-10)4-2-7;/h1-4,11H,5,10H2;1H
